US09084794B2
a) 2-(4-(quinolin-7-yl)phenyl)acetonitrile
A solution of 2-(4-bromophenyl)acetonitrile (2.55 mmol) in 1,4-dioxane (5 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (2.64 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.083 mmol), and 2M aq potassium carbonate (5.10 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 20 min. The resulting black mixture was diluted with water (100 mL) and extracted three times with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-100% ethyl acetate/hexanes) afforded the title compound as a yellow solid (424 mg, 64%). MS(ES)+ m/e 245.3 [M+H]+.

reactant | 2-(4-bromophenyl)acetonitrile | 2.55 mmol | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 2.64 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 5.10 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.083 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(4-(quinolin-7-yl)phenyl)acetonitrile | 424 mg, 64% | N1=CC=CC2=CC=C(C=C12)C1=CC=C(C=C1)CC#N | C17H12N2
